US09328110B2
A mixture of 6-(3-nitroquinolin-4-ylamino)-1-phenylhexan-1-one (2.27 g, 6.25 mmol) and 5% platinum on carbon catalyst (0.50 g) in toluene (60 mL) was hydrogenated on a Parr shaker at 50 psi (3.4×105 Pa) for 3 hours. After filtration through CELITE filter agent and concentration under reduced pressure, 6-(3-aminoquinolin-4-ylamino)-1-phenylhexan-1-one (2.09 g) was obtained as a dark yellow oil that was used directly in the next step without further purification.

reactant | 6-(3-nitroquinolin-4-ylamino)-1-phenylhexan-1-one | 6.25 mmol, 2.27 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCC(=O)C1=CC=CC=C1 | C21H21N3O3
catalyst | platinum on carbon | 0.50 g | [Pt] | Pt
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(3-aminoquinolin-4-ylamino)-1-phenylhexan-1-one | 2.09 g | NC=1C=NC2=CC=CC=C2C1NCCCCCC(=O)C1=CC=CC=C1 | C21H23N3O
